US07807671B2
In a 100 ml 3 necked round bottom flask, 1-phenyl-1H-1,2,3-triazole (1.2 g) was taken in dry THF (25 ml) under nitrogen. n-Butyl lithium (3.36 ml) was added at −78° C. and stirred for 5 minutes, then bromine (3.76 ml) was added dropwise to the above reaction mixture. Reaction mixture was stirred at −78° C. for 1 hour. TLC was checked no starting material and the reaction mixture was quenched with saturated ammonium chloride (50 ml) and ethyl acetate was added. The organic layer was washed with sodium bisulphate, brine, dried and concentrated. The crude product was purified by column chromatography using pet ether & ethyl acetate as eluent to give 5-bromo-1-phenyl-1H-1,2,3-triazole as yellow solid.

reactant | 1-phenyl-1H-1,2,3-triazole | 1.2 g | C1(=CC=CC=C1)N1N=NC=C1 | C8H7N3
reactant | n-Butyl lithium | 3.36 ml | C(CCC)[Li]
reactant | bromine | 3.76 ml | BrBr | Br2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 5-bromo-1-phenyl-1H-1,2,3-triazole | BrC1=CN=NN1C1=CC=CC=C1 | C8H6BrN3
